US07348339B2
Step 1: N,N, N′-Trimethyl-N′-(4-nitro-phenyl)-ethane-1,2-diamine
To a solution containing 1.52 g of 4-nitro-N-methylaniline (10 mmol) in 30 mL THF, was added 0.8 g of sodium hydride (60% dispension in oil, 20 mmol). After 5 minutes at room temperature, 2.59 g of 2-(dimethylamino)ethyl chloride hydrochloride (18 mmol) and 0.4 g of sodium hydride (60% dispension in oil, 10 mmol) were added. The reaction was heated at 60° C. for 5 hours. The solvent was concentrated in vacuo to yield a residue which was partitioned between ethyl acetate and 2 M sodium hydroxide solution. The organic phase was washed with water (3×), dried over anhydrous sodium sulphate, filtered, and concentrated in vacuo to yield the title compound as a brown oil (1.23 g, 55%). MS (ES+) m/e 224 [M+H]+.

reactant | 4-nitro-N-methylaniline | 10 mmol, 1.52 g | [N+](=O)([O-])C1=CC=C(NC)C=C1 | C7H8N2O2
reactant | sodium hydride | 20 mmol, 0.8 g | [H-].[Na+]
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 18 mmol, 2.59 g | Cl.CN(CCCl)C
reactant | sodium hydride | 10 mmol, 0.4 g | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N,N, N′-Trimethyl-N′-(4-nitro-phenyl)-ethane-1,2-diamine | 1.23 g, 55% | CN(CCN(C1=CC=C(C=C1)[N+](=O)[O-])C)C | C11H17N3O2
